US07589094B2
Step D (4-Butyl-3-oxo-piperazin-1-yl)-acetic acid methyl ester
Oxopiperazine v(0.4 g, 2.6 mmol) is combined with diisopropylethylamine (0.55 mL, 3.2 mmol) in 5 mL of methanol over ice, under N2. Methyl bromoacetate (0.27 mL, 2.9 mmol) is added dropwise and the solution is allowed to stir at ambient temperature for 2 hours, at which time it is quenched by the addition of 1 M KH2PO4 and diluted with ethyl acetate. The phases are separated and the organic phase is washed with 1 M KH2PO4 and saturated aqueous NaHCO3. The combined aqueous phases are back-extracted with ethyl acetate. The combined organic phases are dried over Na2SO4. The mixture is filtered and concentrated to give an oil which is purified by flash chromatography on a BIOTAGE 40S column eluting with 500 mL heptane followed by 1/1: heptane/EtOAc and 9/1:CH2Cl2/MeOH to afford v as colorless oil (0.29 g, 1.3 mmol, 50%). (MS: M+H:229.2).

reactant | Oxopiperazine | O=C1NCCNC1 | C4H8N2O
reactant | diisopropylethylamine | 3.2 mmol, 0.55 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methyl bromoacetate | 2.9 mmol, 0.27 mL | BrCC(=O)OC | C3H5BrO2
reactant | heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | methanol | 5 mL | CO | CH4O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | (4-Butyl-3-oxo-piperazin-1-yl)-acetic acid methyl ester | 1.3 mmol, 0.29 g, 50% | COC(CN1CC(N(CC1)CCCC)=O)=O | C11H20N2O3
